US05110956
(b) 2-(6-Ethyl-1,3-benzodioxol-5-yl)ethanol
62 g of lithium aluminum hydride was suspended in 1.5 l of anhydrous tetrahydrofuran. A solution of 200 g of (6-ethyl-1,3-benzodioxol-5-yl)acetic acid in 200 ml of tetrahydrofuran was added dropwise to the suspension and the reaction was conducted at room temperature for 12 h. After the completion of the reaction, water was added thereto and the precipitate was filtered off. The filtrate was concentrated under reduced pressure and water was added to the residue. After extraction with ethyl acetate, the extract was washed with water, dried over magnesium sulfate, concentrated under reduced pressure and purified according to silica gel column chromatography (ethyl acetate/hexane=1:4) to obtain 169 g of the intended compound in the form of a faint yellow oil.

reactant | lithium aluminum hydride | 62 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (6-ethyl-1,3-benzodioxol-5-yl)acetic acid | 200 g | C(C)C=1C(=CC2=C(OCO2)C1)CC(=O)O | C11H12O4
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.5 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(6-Ethyl-1,3-benzodioxol-5-yl)ethanol | 169 g | C(C)C=1C(=CC2=C(OCO2)C1)CCO | C11H14O3
